US08455488B2
Synthesis of (S)-2-amino-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)propanamide IV-2)
According to the procedure described in the synthesis method of Compound IV-1, (9H-fluoren-9-yl)methyl (S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylcarbamate (Compound III-2) 1.34 g (1.84 mmol) was treated with piperidine and purified on silica gel column chromatography (n-hexane:ethyl acetate=9:1, chloroform:methanol=100:0 and 8:2) to obtain the title compound 928 mg (99%).

reactant | (9H-fluoren-9-yl)methyl (S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylcarbamate | 1.84 mmol, 1.34 g | C(C)(C)(C)OC1=CC=C(C=C1)C[C@@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C46H52N2O6
reactant | piperidine | N1CCCCC1 | C5H11N
product | (S)-2-amino-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)propanamide | 928 mg, 99% | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)CC1=CC=C(C=C1)OC(C)(C)C | C31H42N2O4
